* SkyWater PDK
* Simple 3 input logic

.lib /home/hardik/Documents/iitb_electrical_engineering/sem8/ee671/new_pdk_sky/sky130A/libs.tech/ngspice/sky130.lib.spice tt


* The voltage sources:
Vdd vdd gnd DC 1.8

* Vi1 ina1 gnd pulse(0 1.8 0n 20p 20p 1n 2n)
Vi1 ina1 gnd DC 1.8

Vi2 ina2 gnd DC 0.0
Vi3 inb1 gnd pulse(0 1.8 0n 20p 20p 1n 2n)

xnot1 ina1 ina2 inb1 vdd gnd output comb_logic_3inp
 
.subckt comb_logic_3inp a1 a2 b1 vdd vss y

xpm_a1 na a1 vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=3 as=0.9 ad=0.9 ps=6.6 pd=6.6
xpm_a2 na a2 vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=3 as=0.9 ad=0.9 ps=6.6 pd=6.6
xpm_b1 y b1 na vdd sky130_fd_pr__pfet_01v8 l=0.15 w=3 as=0.9 ad=0.9 ps=6.6 pd=6.6


xnm_a1 y a1 nb vss sky130_fd_pr__nfet_01v8 l=0.15 w=0.9 as=0.27 ad=0.27 ps=2.4 pd=2.4
xnm_a2 nb a2 vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=0.9 as=0.27 ad=0.27 ps=2.4 pd=2.4
xnm_b1 y b1 vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=0.45 as=0.135 ad=0.135 ps=1.5 pd=1.5

.ends


* Simulation command:
.tran 1ps 2ns 0 10p

.control
run
plot ina1 inb1 output

* Measure rise time (20% to 80% of 1.8 V)
meas tran rise_time trig v(output) val=0.36 rise=1 targ v(output) val=1.44 rise=1

meas tran fall_time TRIG V(output) VAL=1.44 FALL=1 TARG V(output) VAL=0.36 FALL=1

print rise_time
print fall_time
.endc

